US06214820B1
To a solution of (2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-acetic acid tert-butyl ester (1.4 g, 4.3 mmol) in dry ether (10 mL) was added a suspension of lithium aluminum hydride (245 mg, 6.5 mmol) in dry ether (40 mL). Stirring at room temperature for 1.5 h. The reaction was quenched with water an the product extracted with ether. The combined ether phases were dried MgSO4, filtered and concentrated in vacuo to give 900 mg (91%) of 2-(2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-ethanol.

reactant | (2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-acetic acid tert-butyl ester | 4.3 mmol, 1.4 g | C(C)(C)(C)OC(COC1C=2N=C(OC2CCC2=C1C=CC=C2)C)=O | C19H23NO4
reactant | lithium aluminum hydride | 6.5 mmol, 245 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 40 mL | CCOCC | C4H10O
product | 2-(2-methyl-9,10-dihydro-4H-1-oxa-3-aza-benzo[f]azulen-4-yloxy)-ethanol | 900 mg, 91% | CC=1OC=2CCC3=C(C(C2N1)OCCO)C=CC=C3 | C15H17NO3
